Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing / Cardizem / Morphine / Vancomycin / 
Penicillins / Propofol Analogues / glucose gel
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ gentleman with CAD s/p AMI, HTN, DM2, 
CKD (baseline Cr 1.4), and tobacco use who presented to the ED 
due to dyspnea.  
.
At his baseline, he is not very active due to osteoarthritis and 
lower back pain. Uses a walker to ambulate and can walk 50 feet 
at once before stopping due to pain, but never gets exertional 
chest pain or shortness of breath. He smokes cigarettes and OMR 
notes a history of COPD but he is unaware of this, and he is not 
on any COPD meds. He has chronic ___ edema that is felt to be 
related to his vein grafts as well as kidney disease; he had a 
normal ___ in ___ after his CABG. His edema is controlled with 
Lasix and very occasional Metolazone. At an outpatient 
appontment with his PCP ___ ___ he was advised that he could use 
more Metolazone, but he says that he has been using about the 
same amount (Lasix 40mg daily and a Metolazone dose every week). 
 
.
He was at his baseline until ___ days ago when he started to 
feel shortness of breath with exertion, feeling dyspneic when 
walking around roms at home. The dyspnea worsened to the point 
of being present at rest. He denies any chest pain with these 
episodes (he did have chest pain in the setting of his prior 
MI). Does get slightly lightheaded and sweaty with the shortness 
of breath. His leg swelling is at the same or better compared to 
baseline. He has had a cough productive of frothy white sputum. 
No fevers or chills. The shortness of breath seems to be worse 
when lying flat but he has no PND and no increase in the number 
of pillows he needed to breathe. No recent prolonged immobility 
or long travel. Due to the fact that his dyspnea worsened and 
was present at rest he decided to go to the ED.  
.
In the ED, he triggered on arrival for hypoxia to 88%RA. Initial 
VS were: 147/79, 83, 24, 88%RA but when rechecked was 92%RA and 
increased to 95% on 2L NC. On exam, he was noted to have 
wheezing bilaterally. EKG was sinus rhythm with 1st degree AV 
block (similar to prior) but with new TWI in II as well as 
V4-V6. Labs were notable for WBC 19 (80.7%N, no bands), Hct 38. 
BUN 53, Cr 2.2 (baseline is 1.4-1.6), Na 132. Lactate 1.9. Due 
to concern for CHF, BNP was checked and was 107. Troponin was 
0.03 so CK/MB were added on and were CK 397, MB 11. CXR showed 
no acute process. He continued to sound wheezy on exam so was 
treated for COPD with Methylprednisolone 125mg IV, Azithromycin 
500mg PO, and Albuterol/Ipratropium nebs x2. For back pain he 
received Oxycodone 5mg-Acetaminophen 325mg. He was admitted to 
Medicine for presumed COPD. VS prior to transfer were: BP 
113/52, HR 88, RR 20, POx 93% 4L NC.  
.
On arrival to the floor, he is comfortable and asks when he can 
be discharged because his 70th birthday is in 2 days. Breathing 
fine. The nebs helped somewhat. No chest pain. He does not think 
that he is urinating any less than usual, and his urine does not 
seem particularly dark these days. He is eating and drinking 
fine.  
 .
REVIEW OF SYSTEMS:  
Pertinent for mild constipation for which he takes some OTC 
senna and Dulcolax. If his blood sugar gets low he gets 
lightheaded, wobbly on his feet, and develops blurry vision. He 
has chronic lower back pain, knee and ankle pain. Baseline level 
of ankle edema currently. Right leg is always more swollen than 
the left.  
Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, sore throat, abdominal pain, nausea, vomiting, 
diarrhea, BRBPR, melena, hematochezia, dysuria, hematuria. No 
urinary dribbling or feeling of incomplete bladder emptying.
 
Past Medical History:
CAD  
--s/p MI ___ with PCI to LAD ___  
--s/p CABGx4 ___ (Lima-LAD, SVG-D1, SVG-OM, SVG-PDA), after 
pre-op cath before arthroplasty revealed 3VD  
DM2 on insulin  
HTN  
HLD  
Obesity  
trivial MR ___ on ___ ___ that was otherwise normal with 
EF>55%)  
chronic peripheral edema  
proteinuria and CKD (baseline Cr 1.4)  
depression  
glaucoma  
tobacco use  
peripheral neuropathy  
low back pain  
s/p lumbar spinal fusion ___  
s/p lumbar laminectomy ___  
s/p lipoma excision from right forearm ___  
s/p removal of bone spurs from knees bilaterally  
s/p right hip arthroplasty ___
 
Social History:
___
Family History:
Father-CAD
Mother-DM
 
Physical Exam:
physical exam on admission
VITALS: 98.8, 125/64, 83, 20, 94%2L NC  
room air: fluctuates between 87-95%  
2L NC: fluctuates between 90-95%  
___ glucose: 326  
GENERAL: comfortable, NAD lying with HOB at 30 degrees  
HEENT: PERRL, EOMI  
NECK: no carotid bruits, no JVD  
LUNGS: diffuse inspiratory and expiratory wheezes with prolonged 
i:e ratio; no rales or rhonchi  
HEART: regular, normal S1 S2, no MRG  
ABDOMEN: Soft, NT, NABS, no organomegaly  
EXTREMITIES: RLE>LLE (baseline per patient); 1+ edema to the 
shins bilaterally; 2+ DP pulses bilaterally  
SKIN: brawny stasis change bilaterally; no erythema  
NEUROLOGIC: A+OX3  

physical exam on discharge
VITALS: 98.0 - ___/60 - 96% 2L I/O: ___//370 +BR
GENERAL: comfortable, NAD, sitting in chair w. NC on at 2L 
(keeps removing)
HEENT: EOMI, neck supple, NC
NECK: no carotid bruits, no JVD  
LUNGS: no rales or rhonchi, no wheezing at bilateral lung bases
HEART: regular, normal S1 S2, no MRG
ABDOMEN: Soft, NT, NABS, no organomegaly  
EXTREMITIES: RLE>LLE (baseline per patient); 1+ edema to the 
shins bilaterally; 2+ DP pulses bilaterally,  
SKIN: shiny/brawny stasis change bilaterally; no erythema
NEUROLOGIC: A+OX3, sensation intact BUEs, sensation decrease R>L 
___
 
___ Results:
___ 02:00AM BLOOD WBC-19.0*# RBC-3.89* Hgb-10.3* Hct-38.0* 
MCV-81* MCH-26.5* MCHC-32.7 RDW-28.8* Plt ___
___ 06:45AM BLOOD WBC-20.1* RBC-4.35* Hgb-12.0* Hct-35.6* 
MCV-82 MCH-27.6 MCHC-33.7 RDW-25.4* Plt ___
___ 02:00AM BLOOD Neuts-80.7* Lymphs-12.8* Monos-4.3 
Eos-1.7 Baso-0.5
___ 02:00AM BLOOD Glucose-289* UreaN-53* Creat-2.2* Na-132* 
K-3.8 Cl-91* HCO3-25 AnGap-20
___ 06:45AM BLOOD Glucose-258* UreaN-62* Creat-1.8* Na-133 
K-4.1 Cl-93* HCO3-27 AnGap-17
___ 02:00AM BLOOD CK-MB-11* MB Indx-2.8 proBNP-107
___ 02:00AM BLOOD cTropnT-0.03*
___ 10:45AM BLOOD CK-MB-15* MB Indx-3.5 cTropnT-0.02*
___ 07:05PM BLOOD CK-MB-20* MB Indx-3.7 cTropnT-0.01
___ 06:45AM BLOOD CK-MB-20* MB Indx-3.4 cTropnT-0.02*
___ 06:45AM BLOOD Phos-3.3 Mg-2.4
___ 02:22AM BLOOD Lactate-1.9

CXR ___
FINDINGS:  Single frontal view of the chest demonstrates intact 
median 
sternotomy wires.  New irregular opacification at both lung 
bases could be pneumonia due to virus or mycoplasma infection or 
aspiration. Vertically oriented lucency projecting to the left 
of the lower trachea could be air in a thick walled esophagus; 
consider esophagitis or other infiltrative abnormality 
thickening the esophageal wall.  The heart is normal size and 
there is no vascular congestion or appreciable pleural effusion 
to point to cardiac decompensation.  There is no pneumothorax, 
vascular congestion, or pleural effusion. 
  
IMPRESSION:  Probably pneumonia, due to aspiration or atypical 
pathogen. 
Possible esophageal abnormality should be evaluated at least 
clinically, if not with a contrast swallow.   
atyp pna or aspiration  

EKG ___
Normal sinus rhythm. Voltage for left ventricular hypertrophy. 
Non-specific ST-T wave changes. Compared to the previous tracing 
of ___ no significant change. 
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with CAD s/p AMI, HTN, DM2, 
CKD (baseline Cr 1.4), and tobacco use who presented to the ED 
due to dyspnea.  He was found to have pneumonia and acute kidney 
injury. His cardiac markers (enzymes, serial EKGs) were also 
followed to rule out an MI, and they were stable as well. On 
discharge, he was instructed to hold his lisinopril, glyburide, 
and metolazone until PCP ___ due to ___. He was discharged 
on levofloxacin on day 2 of his hospital course.
.
#. Dyspnea, hypoxia:  Mr. ___ presented with leukocytosis, 
shortness of breath, cough, hypoxia, and was found to have 
radiological evidence of basilar pneumoani. He was originally 
treated for a COPD flare, in light of tobacco use and wheezing 
on exam, but has no history of this, and pneumonia  was a more 
likely cause of his symptoms. Urine legionella was negative. BNP 
was less than 200, and he had a normal ___ in ___. Originally 
treated with two days of a steroid burst course 
(methylprednosolone IV was transitioned to prednisone 60mg, 
which was stopped by ___. For treatment of pneumonia, he 
was given one day of azithromycin, and was then started on 
levofloxacin, which will end ___. He was also treated with 
ipratropium nebulizer as well as albuterol inhaler, and given 
supplemental O2 as tolerated to maintain oxygen saturation >90%. 
On ambulation his SvO2 was >90.
. 
#. ___ on CKD: Creatinine was 2.2 on admission, 1.8 on discharge 
(baseline Cr 1.4-1.6). Injury was likely prerenal in the setting 
decreased intake and recent URI. Also recently uptitrated 
diuretics for his lower extremity edema and volume depletion 
could be secondary to this. Lisinopril, metolazone, furosemide 
were held in the hospital. 
.
#. CAD s/p MI: Mr. ___ had mild cardiac enzyme elevation, 
nonspecific EKG changes.  He does have a legitimate cardiac 
history but it is reassuring that he has no chest pain (pain was 
present with his previous MI). Cardiac enzymes were negative, 
telemetry was unrevealing, and EKGs showed nonspecific stable 
changes. He was continued on ASA 325mg daily, as well as his 
pravastatin and metoprolol.
.
#. ___ edema: chronic.  This has been attributed to prior vein 
grafts as well as his CKD. Nothing to suggest CHF at this time, 
especially with normal pump function on ___ ___ and BNP <200. 
Lasix and Metolazone were held in the setting of ___.
.
#. HTN: Metoprolol was continued, lisinopril, metolazone, and 
lasix were held for ___. His hypertension was reasonably 
well-controlled in the hospital.
.
#. DM2: HbA1c was 9.5 in ___.  Blood glucose was difficult to 
control secondary to the steroids that were originally given for 
COPD exacerbation. He was continued on his home dose of Humalin 
70/30 and covered with a Humalog insulin sliding scale. His 
glyburide was held during his hospital course. 
.
#. HLD: stable.  Pravastatin continued in house.
.
#. Depression: stable. Citalopram continued in house.
.
#. Lower back pain: stable.  Controlled with Tylenol PRN and 
Oxycodone PRN.
.
#. Glaucoma: stable.  Xalatan continued in-house.
.
#. Esophageal findings on CXR: The patient denies all symptoms 
relating to esophagus. Further work up deferred to PCP.
.
# TRANSITIONAL ISSUES:
- Metolazone, lisinopril, furosemide, and glyburide were held 
in-house. Pending renal function improvement, these may be 
re-started at ___ appointment per PCP's preference.
- Please ensure adequate control of glucose as an outpatient 
(may be difficult due to initial steroid regimen). 
- Please ensure compliance with levofloxacin regimen (course 
ends ___, and resolution of dyspnea. 
- Mr. ___ could benefit from smoking cessation, and seemed 
willing to discuss this
- He could benefit from referral for outpatient PFTs for 
investigation of COPD given his initial symptoms
- Consider further evaluation of esophagus if symptoms develop
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Aspirin 325 mg PO DAILY 
2. 70/30 70 Units Breakfast
70/30 40 Units Bedtime
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
4. Citalopram 5 mg PO DAILY 
5. GlyBURIDE 10 mg PO BID 
6. Lisinopril 40 mg PO BID 
7. Metolazone 5 mg PO ONCE OR TWICE WEEKLY 
8. Metoprolol Succinate XL 400 mg PO DAILY 
9. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO EVERY ___ 
HOURS AS NEEDED for pain 
10. Pravastatin 80 mg PO DAILY 
11. Furosemide 40 mg PO DAILY 
12. Vitamin D 800 UNIT PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Citalopram 5 mg PO DAILY 
3. 70/30 70 Units Breakfast
70/30 40 Units Bedtime
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
5. Metoprolol Succinate XL 400 mg PO DAILY 
6. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO EVERY ___ 
HOURS AS NEEDED for pain 
do not drive or operate machinery while on this medication 
7. Pravastatin 80 mg PO DAILY 
8. Vitamin D 800 UNIT PO DAILY 
9. Furosemide 40 mg PO DAILY 
restart tomorrow 
10. Levofloxacin 750 mg PO Q24H 
___nds ___ 
RX *Levaquin 750 mg 1 tablet(s) by mouth daily Disp #*8 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
pneumonia
acute kidney injury

SECONDARY:
diabetes mellitus
coronary artery disease
tobacco use
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted because of shortness of breath and you were 
found to have a pneumonia.  You were started on antibiotics.  
Now your symptoms are much improved and you do not require any 
supplemental oxygen, so you are safe to be discharged home to 
finish a course of Levofloxacin (an antibiotic).

Please keep your PCP ___ (listed below) to follow up 
your symptoms.  You might benefit from referral for pulmonary 
function testing.  In addition, you shuld quit smoking as this 
is a risk factor for emphysema and lung cancer.

Note that while you were here, you were initially started on 
steroids for presumed emphysema/bronchitis (COPD) but these were 
stopped because you did not need them.  But as a result of 
receiving a few days of steroids, your blood sugar might be more 
elevated than usual.  Please check your fingersticks every 
morning and before your largest meal of the day, and if you have 
values >300 please call your PCP.

Finally, because of a mild decrease in your kidney function, we 
held your blood pressure pill, diabetes pill, and diuretic 
pills.  Until you see your PCP, please hold (do not take) your 
Lisinopril, Glyburide, and Metolazone.  You can restart your 
Lasix tomorrow.

We made the following changes to your medications:
-START Levoflocaxin (___nds ___
 
Followup Instructions:
___